US07893056B2
To a solution of 1-(2-chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)-N,N,5,5-tetramethyl-3-pyrrolidinamine (1.0502 g, 3.469 mmol) in DMF (16 mL) was added (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid (1.0075 g, 3.299 mmol), N-methylmorpholine (1.8 mL, 16.37 mmol), 1-hydroxy-7-azabenzotriazole (0.540 g, 3.968 mmol), and EDC (0.760 g, 3.964 mmol). The solution was stirred overnight and then diluted with Et2O (100 mL). The mixture was washed with water (3×50 mL), and the combined aqueous phase was extracted with a fresh portion of Et2O (50 mL). This organic phase was washed with a fresh portion of water (25 mL), and the combined organic phase was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue was dissolved in DCM (150 mL), dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to provide crude [(2R)-3-(2-{2-chloro-6-[4-(dimethylamino)-2,2-dimethyl-1-pyrrolidinyl]-5-fluoro-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide (1.6539 g, 85% crude yield) as a dark red foam. LCMS: (M+H)+: 590.2.

reactant | 1-(2-chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)-N,N,5,5-tetramethyl-3-pyrrolidinamine | 3.469 mmol, 1.0502 g | ClC1=NC(=C(C(=N1)N1CC(CC1(C)C)N(C)C)F)NN | C12H20ClFN6
reactant | (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid | 3.299 mmol, 1.0075 g | C1(CCCC1)C[C@@H](C(=O)O)CN(OCC1=CC=CC=C1)C=O | C17H23NO4
reactant | N-methylmorpholine | 16.37 mmol, 1.8 mL | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxy-7-azabenzotriazole | 3.968 mmol, 0.540 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDC | 3.964 mmol, 0.760 g
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | [(2R)-3-(2-{2-chloro-6-[4-(dimethylamino)-2,2-dimethyl-1-pyrrolidinyl]-5-fluoro-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide | 1.6539 g | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OCC1=CC=CC=C1)CC1CCCC1)=O)F)N1C(CC(C1)N(C)C)(C)C | C29H41ClFN7O3
